US06432989B1
cyclopropylmethyl-[3-(2-methyl-4-chloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propyl-amine;
cyclopropylmethyl-[3-(2,4-di-chloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propyl-amine, [3-(2-methyl-4-chloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-di-propyl-amine;

reactant | cyclopropylmethyl-[3-(2,4-di-chloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propyl-amine | C1(CC1)CN(CCC)C1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2)Cl)Cl)C)C | C21H24Cl2N4
reactant | [3-(2-methyl-4-chloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-di-propyl-amine | CC1=C(C=CC(=C1)Cl)C=1C(=NN2C1N=C(C=C2N(CCC)CCC)C)C | C21H27ClN4
product | cyclopropylmethyl-[3-(2-methyl-4-chloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propyl-amine | C1(CC1)CN(CCC)C1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2)Cl)C)C)C | C22H27ClN4
